US07977344B2
8-Bromo-2-[(cyclohexylmethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
2-[(Cyclohexylmethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (1.0364 g) was dissolved in chloroform (20 mL) and cooled to 0° C. before N-bromosuccinimide (0.5852 g) was added gradually (the reaction temperature not exceeding 1.9° C. during the addition of N-bromosuccinimide). The reaction mixture was stirred at ˜2° C. for 15 minutes before being warmed to room temperature at which it was stirred for 6 hours (under nitrogen). Water (100 mL) was added to the reaction mixture and stirred rapidly before the organic layer was separated using a hydrophobic frit. The organic phase was evaporated under reduced pressure to give dark brown oil. This material was purified by silica chromatography eluting with 0-50% ethyl acetate; cyclohexane to give the title compound as a pale yellow solid (0.8200 g).

reactant | 2-[(Cyclohexylmethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.0364 g | C1(CCCCC1)COC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C17H25N5O2
reactant | N-bromosuccinimide | 0.5852 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | 100 mL | O | H2O
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-Bromo-2-[(cyclohexylmethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 0.8200 g | BrC=1N(C2=NC(=NC(=C2N1)N)OCC1CCCCC1)C1OCCCC1 | C17H24BrN5O2
